US08633235B2
Step A. N′-[1-(cyclohexylmethyl)-2-(1,1-dimethylpropyl)-1H-benzimidazol-5-yl]-N,N-dimethyl-sulfamide
DMAP (80.1 mg, 0.65 mmol) was added to a solution of 1-(cyclohexylmethyl)-2-(1,1-dimethylpropyl)-1H-benzimidazol-5-amine (69.5 mg, 0.18 mmol) (for preparation, see the following steps B, C, D, E and F) in acetonitrile (10 mL) at 0° C., followed by addition of dimethylsulfamoyl chloride (22 uL, 28.7 mg, 0.20 mmol). The resulting mixture was heated at reflux for 20 h and then quenched with MeOH (2 mL). After evaporation of the solvent, the residue was dissolved in EtOAc (100 mL) and washed with NaCl aqueous solution (10 mL) and dried over Na2SO4. After filtration and evaporation, the residue was purified by MPLC (hexanes/EtOAc 1:1 as eluent on silica gel) to give the title compound as a white solid (56.2 mg, 76%), which was converted to a white solid as a TFA salt. 1H NMR (400 MHz, CD3OD): δ 0.84 (t, J=7.52 Hz, 3H), 1.24 (m, 5H), 1.64 (m, 2H), 1.66 (s, 6 μl), 1.71 (m, 1H), 1.78 (m, 2H), 2.01 (q, J=7.55 Hz, 2H), 2.11 (m, 1H), 2.82 (s, 6H), 4.44 (d, J=7.81 Hz, 2H), 7.37 (dd, J=8.98, 2.15 Hz, 1H), 7.69 (d, J=2.15 Hz, 1H), 7.84 (d, J=8.98 Hz, 1H); MS (ESI) (M+H)+: 407.3; Anal. Calcd for C21H34N4O2S+1.0 TFA+0.2 H2O: C, 52.70; H, 6.81; N, 10.69. Found: C, 52.70; H, 6.66; N, 10.45.

reactant | 1-(cyclohexylmethyl)-2-(1,1-dimethylpropyl)-1H-benzimidazol-5-amine | 0.18 mmol, 69.5 mg | C1(CCCCC1)CN1C(=NC2=C1C=CC(=C2)N)C(CC)(C)C | C19H29N3
reactant | dimethylsulfamoyl chloride | 0.20 mmol, 22 uL, 28.7 mg | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
catalyst | DMAP | 0.65 mmol, 80.1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N′-[1-(cyclohexylmethyl)-2-(1,1-dimethylpropyl)-1H-benzimidazol-5-yl]-N,N-dimethyl-sulfamide | 56.2 mg, 76% | C1(CCCCC1)CN1C(=NC2=C1C=CC(=C2)NS(=O)(=O)N(C)C)C(CC)(C)C | C21H34N4O2S
